US05283241
Step M: 4-(Tetrahydropyranyloxy)methyl-2'-nitro-1,1'-biphenyl
A solution of 4-hydroxymethyl-2'-nitro-1,1'-biphenyl (3.06 g, 13.4 mmol) and 3,4-dihydropyran (1.8 mL, 20.1 mmol) in methylene chloride (50 mL) under a nitrogen atmosphere was treated with pyridinium p-toluenesulfonate (336 mg, 1.34 mmol). After stirring for 3 hours at room temperature, thin layer chromatography indicated that no starting material remained. The reaction mixture was diluted with ethyl ether (300 mL). The ether extracts were washed with saturated aqueous sodium chloride, dried over magnesium sulfate and filtered. The filtrate was evaporated under vacuum and the residue purified by preparative high pressure liquid chromatography on silica gel, eluting with hexane/ethyl acetate (10:1) to give 4.47 g of the product.

reactant | 4-hydroxymethyl-2'-nitro-1,1'-biphenyl | 13.4 mmol, 3.06 g | OCC1=CC=C(C=C1)C1=C(C=CC=C1)[N+](=O)[O-] | C13H11NO3
reactant | 3,4-dihydropyran | 20.1 mmol, 1.8 mL | O1CCCC=C1 | C5H8O
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl ether | 300 mL | C(C)OCC | C4H10O
catalyst | pyridinium p-toluenesulfonate | 1.34 mmol, 336 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
product | 4-(Tetrahydropyranyloxy)methyl-2'-nitro-1,1'-biphenyl | 4.47 g | O1C(CCCC1)OCC1=CC=C(C=C1)C1=C(C=CC=C1)[N+](=O)[O-] | C18H19NO4
